US07759385B2
Indole (4.38 g, 40 mmole) and maleimide (7.84 g, 80 mmole) were dissolved in concentrated acetic acid (35 ml) and stirred under reflux for 36 hours. After cooling the reaction mixture water (10 ml) was slowly added dropwise. The solution was then kept for 24 hours in a refrigerator. The solid thereby formed was filtered off. 3-(1H-indol-3-yl)-pyrrolidine-2,5-dione was thereby obtained as a brown solid in a yield of 3.24 g (38%).

reactant | Indole | 40 mmole, 4.38 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | maleimide | 80 mmole, 7.84 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | water | 10 ml | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | 3-(1H-indol-3-yl)-pyrrolidine-2,5-dione | N1C=C(C2=CC=CC=C12)C1C(NC(C1)=O)=O | C12H10N2O2
